US08609647B2
(12) Optically-Active Compound of 3-methyl-1,6-diazaspiro[3.4]octane-1-carboxylic acid tert-butyl ester
To a solution of an optically-active compound of 6-benzyl-3-methyl-1,6-diazaspiro[3.4]octane-1-carboxylic acid tert-butyl ester (10.0 g) in tetrahydrofuran/methanol (50 ml/50 ml) was added 20% palladium hydroxide carbon (2.0 g), and the mixture was hydrogenated under 4 atmospheres for 24 hours. The mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure to give the titled compound (7.3 g).

reactant | 6-benzyl-3-methyl-1,6-diazaspiro[3.4]octane-1-carboxylic acid tert-butyl ester | 10.0 g | C(C)(C)(C)OC(=O)N1CC(C12CN(CC2)CC2=CC=CC=C2)C | C19H28N2O2
solvent | tetrahydrofuran methanol | 50 ml | O1CCCC1.CO
catalyst | palladium hydroxide carbon | 2.0 g | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | 3-methyl-1,6-diazaspiro[3.4]octane-1-carboxylic acid tert-butyl ester | 7.3 g | C(C)(C)(C)OC(=O)N1CC(C12CNCC2)C | C12H22N2O2
